US07091353B2
3-{4-[(2-Furylmethyl)amino]-1-oxoisoindolin-2-yl}piperidine-2,6-dione I-47
To a stirred suspension of 3-(4-amino-1-oxoisoindolin-2-yl)piperidine-2,6-dione (0.52 g, 2.0 mmol) in methanol (50 ml) was added furan-2-carbaldehyde (0.200 g, 2.05 mmol). The mixture was heated to reflux for 4 hours. The solvent was evaporated in vacuo and the residue was dissolved in acetic acid (20 ml). Sodium triacetoxyborohydride (0.450 g, 2.05 mmol) was added to the reaction mixture. The reaction mixture was stirred for 24 hours. The solvent was evaporated in vacuo and the residue was dissolved in ethyl acetate (100 ml), washed with H2O (3×100 ml), saturated aqueous NaHCO3 (2×100 ml), brine (1×100 ml), and dried over MgSO4. The solvent was evaporated in vacuo and the residue was partially purified by chromatography (100% ethyl acetate) to give an off-white solid which was recrystallized from ethanol to give 0.20 g of product as a white solid: mp 248–250° C.; 1H NMR (DMSO-d6) δ 11.02 (s, 1H), 7.57 (s, 1H), 7.27 (t, J=7.6 Hz, 1H), 6.96 (d, J=7.3 Hz, 1H), 6.85 (d, J=8.0 Hz, 1H), 6.36 (d, J=1.2 Hz, 2H), 6.22 (t, J=5.4 Hz, 1H), 5.12 (dd, J=4.9 and 13.1 Hz, 1H), 4.37 (d, J=5.5 Hz, 2H), 4.27 (d, J=17.2 Hz, 1H), 4.14 (d, J=17.2 Hz, 1H) 3.00–2.86 (m, 1H), 2.65–2.59 (m, 1H), 2.37–2.23 (m, 1H), 2.08–1.99 (m, 1H); 13C NMR (DMSO-d6) δ 172.83, 171.16, 168.70, 152.82, 143.06, 142.00, 132.09, 129.02, 126.76, 112.35, 110.63, 110.33, 107.08, 51.50, 45.73, 31.20, 22.75; Anal. Calcd. For C18H17N3O4: C, 63.71; H, 5.05; N, 12.38. Found: C, 63.41; H, 5.03; N, 11.98.

reactant | 3-(4-amino-1-oxoisoindolin-2-yl)piperidine-2,6-dione | 2.0 mmol, 0.52 g | NC1=C2CN(C(C2=CC=C1)=O)C1C(NC(CC1)=O)=O | C13H13N3O3
reactant | furan-2-carbaldehyde | 2.05 mmol, 0.200 g | O1C(=CC=C1)C=O | C5H4O2
reactant | Sodium triacetoxyborohydride | 2.05 mmol, 0.450 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | 3-{4-[(2-Furylmethyl)amino]-1-oxoisoindolin-2-yl}piperidine-2,6-dione | 0.20 g | O1C(=CC=C1)CNC1=C2CN(C(C2=CC=C1)=O)C1C(NC(CC1)=O)=O | C18H17N3O4
